US04847256
A mixture of 25.0 g of 4-chloroacetophenone and 40 ml of N,N-dimethylacetamide dimethyl acetal was stirred and heated at reflux for 3 hours. The mixture was evaporated in vacuo to give a red solid. The solid was triturated with n-hexane and filtered. The solid was washed with n-hexane and dried to give 15.6 g of 1-(4-chlorophenyl)-3-(dimethylamino)-2-buten-1-one as red crystals, mp 103°-105° C.

reactant | 4-chloroacetophenone | 25.0 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | N,N-dimethylacetamide dimethyl acetal | 40 ml | COC(C)(N(C)C)OC | C6H15NO2
product | 1-(4-chlorophenyl)-3-(dimethylamino)-2-buten-1-one | 15.6 g | ClC1=CC=C(C=C1)C(C=C(C)N(C)C)=O | C12H14ClNO
